US05084471
E/Z-2-(4-Fluorophenyl)-3-(2-chlorophenyl)propenal
4.2 g of sodium hydroxide in 30 ml of water are added to a solution of 35 g of 2-chlorobenzaldehyde in 300 ml of methanol. The reaction mixture is cooled to 10° C. and 36 g of 4-fluorophenylacetaldehyde are rapidly added, during which the solution warms to 30°-40° C. The reaction solution is stirred at 40° C. for 10 hours and then cooled, and the crystals which separate out are filtered off with suction.

reactant | sodium hydroxide | 4.2 g | [OH-].[Na+]
reactant | 2-chlorobenzaldehyde | 35 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4-fluorophenylacetaldehyde | 36 g | FC1=CC=C(C=C1)CC=O | C8H7FO
solvent | water | 30 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | Z-2-(4-Fluorophenyl)-3-(2-chlorophenyl)propenal | FC1=CC=C(C=C1)/C(/C=O)=C/C1=C(C=CC=C1)Cl | C15H10ClFO
